US05478858
A mixture of 2,3-diamino-p-xylene (5.1 g), formic acid (88%, 200 mL) and 12N HCl (20 mL) is heated to reflux for 3 hours. The resulting mixture is cooled to room temperature and rotary evaporated. The residue is diluted with water (100 mL), then basified with ammonium hydroxide (28-30%). The suspension is extracted with ethyl acetate (3×100 mL). The combined extracts are dried over MgSO4 and rotary evaporated to afford 4,7-dimethylbenzimidazole as a yellow solid.

reactant | 2,3-diamino-p-xylene | 5.1 g | NC1=C(C=CC(=C1N)C)C | C8H12N2
reactant | formic acid | 200 mL | C(=O)O | CH2O2
reactant | HCl | 12N, 20 mL | Cl | ClH
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | water | 100 mL | O | H2O
product | 4,7-dimethylbenzimidazole | CC1=CC=C(C=2N=CNC21)C | C9H10N2
